### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Monoidal/Mod_): add a class version of modules over monoid objects

### PR DESCRIPTION
**Pull request by Paul-Lez**
From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 1]
```diff
@@ -129,3 +128,42 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+variable (M : C) [Mon_Class M]
+
+/--
+An action of a monoid object `M` on an object `S` is the data of map
+`smul : M ⊗ S ⟶ S` that satisfies "the right commutative diagrams" -/
+class Mod_Class_ (S : C) where
+  /-- The action map -/
+  smul : M ⊗ S ⟶ S
+  mul_smul' : (𝟙 M ⊗ smul) ≫ smul
+    = (α_ M M S).inv ≫ (μ ⊗ (𝟙 S)) ≫ smul := by aesop_cat
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:145]:
```suggestion
  mul_smul' : 𝟙 M ⊗ smul ≫ smul = (α_ M M S).inv ≫ μ ⊗ 𝟙 S ≫ smul := by aesop_cat
```

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 2]
```diff
@@ -129,3 +128,42 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+
+@[inherit_doc] notation "γ" => Mod_Class_.smul
+
+/- The simp attribute is reserved for the unprimed versions. -/
+attribute [reassoc] mul_smul' one_smul'
+
+@[reassoc (attr := simp)]
+lemma mul_smul (S : C) [Mod_Class_ M S] : (𝟙 M ⊗ γ) ≫ γ
+    = (α_ M M S).inv ≫
+      (μ ⊗ (𝟙 S) : (M ⊗ M) ⊗ S ⟶ M ⊗ S) ≫ γ := mul_smul'
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:158]: Please start multiline return types on a new line
```suggestion
lemma mul_smul (S : C) [Mod_Class_ M S] :
    𝟙 M ⊗ γ ≫ γ = (α_ M M S).inv ≫ (μ ⊗ 𝟙 S : (M ⊗ M) ⊗ S ⟶ M ⊗ S) ≫ γ := mul_smul'
```

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 3]
```diff
@@ -129,3 +128,42 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+
+variable (M : C) [Mon_Class M]
+
+/--
+An action of a monoid object `M` on an object `S` is the data of map
+`smul : M ⊗ S ⟶ S` that satisfies "the right commutative diagrams" -/
+class Mod_Class_ (S : C) where
+  /-- The action map -/
+  smul : M ⊗ S ⟶ S
+  mul_smul' : (𝟙 M ⊗ smul) ≫ smul
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:144]:
```suggestion
  mul_smul (S) : (𝟙 M ⊗ smul) ≫ smul
```
will do the same

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 4]
```diff
@@ -129,3 +128,42 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+@[reassoc (attr := simp)]
+lemma mul_smul (S : C) [Mod_Class_ M S] : (𝟙 M ⊗ γ) ≫ γ
+    = (α_ M M S).inv ≫
+      (μ ⊗ (𝟙 S) : (M ⊗ M) ⊗ S ⟶ M ⊗ S) ≫ γ := mul_smul'
+
+@[reassoc (attr := simp)]
+lemma one_smul (S : C) [Mod_Class_ M S] :
+    (λ_ S).inv ≫ η ▷ S ≫ (γ : M ⊗ S ⟶ S) = 𝟙 S := one_smul'
+
+def regular : Mod_Class_ M M where
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:164]:
```suggestion
-- See note [reducible non instances]
abbrev regular : Mod_Class_ M M where
```
Also docstring?

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean (hunk 2 above)
Comment (Paul-Lez) [reply Mathlib/CategoryTheory/Monoidal/Mod_.lean]: I guess we don't need this anymore right?

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 5]
```diff
@@ -129,3 +128,35 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+/--
+An action of a monoid object `M` on an object `S` is the data of map
+`smul : M ⊗ S ⟶ S` that satisfies "the right commutative diagrams" -/
+class Mod_Class_ (S : C) where
+  /-- The action map -/
+  smul : M ⊗ S ⟶ S
+  /-- The action map is compatible with the monoid's multiplication -/
+  mul_smul (S) : (μ ▷ S) ≫ smul = (α_ M M S).hom ≫ (M ◁ smul) ≫ smul := by aesop_cat
+  /-- The identity acts trivially -/
+  one_smul (S) : (η ▷ S) ≫ smul = (λ_ S).hom := by aesop_cat
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:147]: Incredibly minor but, to match `MulAction`,
```suggestion
  /-- The identity acts trivially -/
  one_smul (S) : (η ▷ S) ≫ smul = (λ_ S).hom := by aesop_cat
  /-- The action map is compatible with the monoid's multiplication -/
  mul_smul (S) : (μ ▷ S) ≫ smul = (α_ M M S).hom ≫ (M ◁ smul) ≫ smul := by aesop_cat
```

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 6]
```diff
@@ -129,3 +128,35 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+
+section Mod_Class_
+
+open CategoryTheory Mon_Class MonoidalCategory
+
+variable (M : C) [Mon_Class M]
+
+/--
+An action of a monoid object `M` on an object `S` is the data of map
+`smul : M ⊗ S ⟶ S` that satisfies "the right commutative diagrams" -/
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:140]:
```suggestion
/--
An action of a monoid object `M` on an object `S` is the data of map
`smul : M ⊗ S ⟶ S` that satisfies "the right commutative diagrams".

 See `MulAction` for the non-categorical version. -/
```
or something like that

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 7]
```diff
@@ -129,3 +128,35 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+
+attribute [reassoc (attr := simp)] Mod_Class_.mul_smul Mod_Class_.one_smul
+
+namespace Mod_Class_
+
+@[inherit_doc] notation "γ" => Mod_Class_.smul
+
+-- See note [reducible non instances]
+/-- The action of a monoid object on itself. -/
+abbrev regular : Mod_Class_ M M where
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:157]:
```suggestion
abbrev leftMul : Mod_Class_ M M where
```
no?

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Mod_.lean:157]: You mean [`Mul.toSMul`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Action/Defs.html#Mul.toSMul)

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Mod_.lean:157]: Okay, let's leave as if for now

**Review by YaelDillies — APPROVED** [review]
Paul and I have talked about those changes in person, and I know he is currently busy with a deadline, so I performed them myself.

maintainer merge

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 8]
```diff
@@ -129,3 +128,35 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+class Mod_Class (X : C) where
+  /-- The action map -/
+  smul : M ⊗ X ⟶ X
+  /-- The identity acts trivially. -/
+  one_smul (X) : (η ▷ X) ≫ smul = (λ_ X).hom := by aesop_cat
+  /-- The action map is compatible with multiplication. -/
+  mul_smul (X) : (μ ▷ X) ≫ smul = (α_ M M X).hom ≫ (M ◁ smul) ≫ smul := by aesop_cat
+
+attribute [reassoc (attr := simp)] Mod_Class.mul_smul Mod_Class.one_smul
+
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:151]: Can you add an instance for `Mod_Class X.X` for `X : Mod_ A`, and a constructor taking `Mod_Class` and spitting out `Mod_`? Thanks.

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 9]
```diff
@@ -129,3 +128,35 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+namespace Mod_Class
+
+@[inherit_doc] scoped notation "γ" => Mod_Class.smul
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:154]: We should put all these into the same namespace. The current goto one is `Mon_Class` but if you think the name isn't appropriate then you could also define a new one and move other notations for `Mon_Class` and `Grp_Class` there.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mod_.lean [hunk 10]
```diff
@@ -0,0 +1,26 @@
...
+variable {C : Type u} [Category.{v} C] [ChosenFiniteProducts C]
+
+/-- Every object is a module over a monoid object via the trivial action. -/
+@[simps]
+def Mod_.trivialAction (M : Mon_ C) (X : C) : Mod_ M where
+  X := X
+  act := snd M.X X
+
+/-- Every object is a module over a monoid object via the trivial action. -/
+def Mon_Class.trivialAction (M : C) [Mon_Class M] (X : C) : Mod_Class M X where
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Mod_.lean:25]:
```suggestion
@[reducible] def Mon_Class.trivialAction (M : C) [Mon_Class M] (X : C) : Mod_Class M X where
```
See library note `[reducible non instances]`.

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean (hunk 9 above)
Comment (Paul-Lez) [reply Mathlib/CategoryTheory/Monoidal/Mod_.lean:154]: Switched to `Mon_Class`.

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 11]
```diff
@@ -129,3 +128,51 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+  /-- The action map is compatible with multiplication. -/
+  mul_smul (X) : (μ ▷ X) ≫ smul = (α_ M M X).hom ≫ (M ◁ smul) ≫ smul := by aesop_cat
+
+attribute [reassoc (attr := simp)] Mod_Class.mul_smul Mod_Class.one_smul
+
+namespace Mon_Class
+
+@[inherit_doc] scoped notation "γ" => Mod_Class.smul
+
+end Mon_Class
```
[the remark this answers is not in the document]
Comment (Paul-Lez) [reply Mathlib/CategoryTheory/Monoidal/Mod_.lean:156]: That is indeed cleaner :D

**Comment by YaelDillies** [comment]
maintainer merge

again then :)

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 12]
```diff
@@ -129,3 +128,47 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+namespace Mod_Class
+
+/-- The action of a monoid object on itself. -/
+-- See note [reducible non instances]
+abbrev regular : Mod_Class M M where smul := μ
+
+/-- Construct an object of `Mod_ (Mon_.mk' M)` from an object `X : C` and a
+`Mod_Class M X` instance. -/
+@[simps]
+def mk' (X : C) [Mod_Class M X] : Mod_ (.mk' M) where
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:163]: This should be `Mod_.mk'`.

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mod_.lean [hunk 13]
```diff
@@ -0,0 +1,26 @@
...
+variable {C : Type u} [Category.{v} C] [ChosenFiniteProducts C]
+
+/-- Every object is a module over a monoid object via the trivial action. -/
+@[simps]
+def Mod_.trivialAction (M : Mon_ C) (X : C) : Mod_ M where
+  X := X
+  act := snd M.X X
+
+/-- Every object is a module over a monoid object via the trivial action. -/
+@[reducible] def Mon_Class.trivialAction (M : C) [Mon_Class M] (X : C) : Mod_Class M X where
```
Comment (erdOne) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Mod_.lean:25]:
```suggestion
@[reducible] def Mod_Class.trivialAction (M : C) [Mon_Class M] (X : C) : Mod_Class M X where
```
Is this a typo or was this intended?

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mod_.lean:25]: I think that's intended

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 14]
```diff
@@ -129,3 +128,47 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+satisfies unitality and associativity with multiplication.
+
+See `MulAction` for the non-categorical version. -/
+class Mod_Class (X : C) where
+  /-- The action map -/
+  smul : M ⊗ X ⟶ X
+  /-- The identity acts trivially. -/
+  one_smul (X) : (η ▷ X) ≫ smul = (λ_ X).hom := by aesop_cat
+  /-- The action map is compatible with multiplication. -/
+  mul_smul (X) : (μ ▷ X) ≫ smul = (α_ M M X).hom ≫ (M ◁ smul) ≫ smul := by aesop_cat
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:148]: Most of the parentheses should be unnecessary here.

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 15]
```diff
@@ -129,3 +128,47 @@ def comap {A B : Mon_ C} (f : A ⟶ B) : Mod_ B ⥤ Mod_ A where
...
+
+variable (M : C) [Mon_Class M]
+
+/-- An action of a monoid object `M` on an object `X` is the data of a map `smul : M ⊗ X ⟶ X` that
+satisfies unitality and associativity with multiplication.
+
+See `MulAction` for the non-categorical version. -/
+class Mod_Class (X : C) where
+  /-- The action map -/
+  smul : M ⊗ X ⟶ X
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean:144]: In the bundled version, this field was denoted `act`, `one_smul` was `one_act` and `mul_smul` was `assoc`. I think it would be better to have consistent names.

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Mod_.lean:144]: The hope was to change the names of `Mod_` to match `Mod_Class`, rather than the other way around

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean (hunk 14 above)
Comment (Paul-Lez) [reply Mathlib/CategoryTheory/Monoidal/Mod_.lean]: Good point! Fixed (and also removed redundant parentheses from the rest of the code in the file)

File: Mathlib/CategoryTheory/Monoidal/Mod_.lean [hunk 16]
```diff
@@ -143,16 +143,22 @@ class Mod_Class (X : C) where
...
 
 @[inherit_doc] scoped[Mon_Class] notation "γ" => Mod_Class.smul
+@[inherit_doc] scoped[Mon_Class] notation "γ["X"]" => Mod_Class.smul (X := X)
 
 namespace Mod_Class
 
+open Mon_Class
+
+theorem assoc_flip (X : C) [Mod_Class M X] :
+  (M ◁ γ) ≫ γ[X] = (α_ M M X).inv ≫ μ[M] ▷ X ≫ γ := by simp
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Monoidal/Mod_.lean]:
```suggestion
    M ◁ γ ≫ γ[X] = (α_ M M X).inv ≫ μ[M] ▷ X ≫ γ := by simp
```

Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Mod_.lean]: Whoops

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mod_.lean (hunk 13 above)
Comment (YaelDillies) [reply Mathlib/CategoryTheory/Monoidal/Cartesian/Mod_.lean:25]: I must say `Mod_Class.trivialAction` seems a bit better because it allows anonymous dot notation

**Comment by erdOne** [comment]
Thanks!
maintainer merge

**Comment by joelriou** [comment]
Thanks!

bors merge

File: Mathlib/CategoryTheory/Monoidal/Cartesian/Mod_.lean [hunk 17]
```diff
@@ -0,0 +1,28 @@
...
+/-!
+# Additional results about module objects in cartesian monoidal categories
+-/
+
+open CategoryTheory MonoidalCategory ChosenFiniteProducts
+
+universe v u
+variable {C : Type u} [Category.{v} C] [ChosenFiniteProducts C]
+
+attribute [local simp] leftUnitor_hom
```
Comment (YaelDillies) [inline Mathlib/CategoryTheory/Monoidal/Cartesian/Mod_.lean:18]: @erdOne, since #24399, I need this lemma to be simp for the proofs below to work. Shouldn't it be simp globally?
